US06372764B1
Benzylindole-7-carboxylate
A solution of 0.68 g (4.2 mmol) of indole-7-carboxylic acid, 0.9 g (8.4 mmol) of benzylalcohol 1.03 g (8.4 mmol) of DMAP and 1.6 g (8.4 mmol) of 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (Aldrich) in 30 mL of CH2Cl2 was stirred at rt for 18 h. The reaction mixture was concentrated and the residue was purified by chromatography (silica, hexanes:ethyl acetate 30:1) to give 0.88 g of the title compound.

reactant | indole-7-carboxylic acid | 4.2 mmol, 0.68 g | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | benzylalcohol | 8.4 mmol, 0.9 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 8.4 mmol, 1.6 g | Cl.CN(CCCN=C=NCC)C
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | Benzylindole-7-carboxylate | 0.88 g | C(C1=CC=CC=C1)OC(=O)C=1C=CC=C2C=CNC12 | C16H13NO2
